US06211215B1
In substantially the same manner as in Working Example 1, 3-[3-[2-[(E)-2-phenylethenyl]-4-oxazolylmethoxy]phenyl]propanol was allowed to react with 1,2,4-triazole to give 1-[3-[3-[2-[(E)-2-phenylethenyl]-4-oxazolylmethoxy]phenyl]propyl]-1,2,4-triazole. The yield was 61%. Recrystallization from ethyl acetate-hexane gave colorless prisms, mp 59-60° C.

reactant | 3-[3-[2-[(E)-2-phenylethenyl]-4-oxazolylmethoxy]phenyl]propanol | C1(=CC=CC=C1)/C=C/C=1OC=C(N1)COC=1C=C(C=CC1)CCCO | C21H21NO3
reactant | 1,2,4-triazole | N1N=CN=C1 | C2H3N3
product | 1-[3-[3-[2-[(E)-2-phenylethenyl]-4-oxazolylmethoxy]phenyl]propyl]-1,2,4-triazole | yield was 61% | C1(=CC=CC=C1)/C=C/C=1OC=C(N1)COC=1C=C(C=CC1)CCCN1N=CN=C1 | C23H22N4O2
